US07115611B2
2-{4-[4-(2-Methoxy-ethyl)-2-(6-trifluoromethyl-pyridin-3-yl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid
A solution of 133 mg (0.25 mmol) 2-{4-[4-(2-methoxy-ethyl)-2-(6-trifluoromethyl-pyridin-3-yl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester (example 101A]) in 1.5 ml of THF/MeOH (1:1) was cooled (0° C.) treated with 0.75 ml 1N LiOH and stirred for 15 h at RT. The reaction mixture was taken up in ether and washed with aqueous 10% KHSO4 solution and aqueous 10% NaCl. The organic phase was dried (Na2SO4) and evaporated. The crude product was suspended in ether (RT to 4° C.) and filtered to give 66 mg of the title compound as a white powder of mp. 140.5–141.5° C., dec.

reactant | 2-{4-[4-(2-methoxy-ethyl)-2-(6-trifluoromethyl-pyridin-3-yl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid ethyl ester | 0.25 mmol, 133 mg | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC=1C(=NC(=NC1)C=1C=NC(=CC1)C(F)(F)F)CCOC)C)=O | C27H30F3N3O5
reactant | LiOH | 1N, 0.75 ml | [Li+].[OH-]
solvent | THF MeOH | 1.5 ml | C1CCOC1.CO
solvent | ether | CCOCC | C4H10O
product | 2-{4-[4-(2-Methoxy-ethyl)-2-(6-trifluoromethyl-pyridin-3-yl)-pyrimidin-5-ylmethoxy]-2-methyl-phenoxy}-2-methyl-propionic acid | 66 mg | COCCC1=NC(=NC=C1COC1=CC(=C(OC(C(=O)O)(C)C)C=C1)C)C=1C=NC(=CC1)C(F)(F)F | C25H26F3N3O5
